US09371305B2
Step 1: 1-methoxy-2,4-dimethylbenzene
2,4-dimethylphenol (7.5 g, 0.062 mol) and anhydrous potassium carbonate (25.4 g, 0.18 mol) were dissolved into DMF (75 mL) and then iodomethane (8.83 g, 0.062 mol) was dropped under an ice bath. The system was stirred overnight at room temperature. At the end of reaction, the reaction system was added with water and then extracted with ethyl acetate, and the organic phase was washed with saturated brine, then dried and evaporated in vacuum to obtain 7.11 g of the product (85%) by column chromatography.

reactant | 2,4-dimethylphenol | 0.062 mol, 7.5 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | potassium carbonate | 0.18 mol, 25.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
reactant | iodomethane | 0.062 mol, 8.83 g | IC | CH3I
solvent | water | O | H2O
product | 1-methoxy-2,4-dimethylbenzene | 7.11 g, 85% | COC1=C(C=C(C=C1)C)C | C9H12O
